* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1193.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 5
V2 -V 0 -5
R1 OUT N001 1K
R2 N001 0 1K
V3 IN 0 SINE(0 10m 1Meg)
X§U1 IN 0 +V -V OUT 0 N001 NC_01 LT1193
.tran 10u
.lib LTC.lib
.backanno
.end
