* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1206.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 15
V2 -V 0 -15
R1 OUT N001 2K
R2 N001 0 {R}
V3 IN 0 AC 1
X§U1 IN N001 +V -V OUT NC_01 LT1206
.ac oct 10 1 100Meg
.step param R list 100 200 400 800
.lib LTC.lib
.backanno
.end
