* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1207.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 5
V2 -V 0 -5
X§U1 0 N004 +V -V N005 NC_01 LT1206
X§U2 IN N003 +V -V N001 NC_02 LT1206
R1 N005 N004 720
R2 N001 N004 720
R3 N001 N003 720
R4 N003 0 240
V3 IN 0 AC 1
R5 N002 N001 62
R6 N006 N005 62
L2 0 OUT 1m
R7 OUT 0 150
L1 N006 N002 1m
.ac oct 10 1 100Meg
K1 L1 L2 1
* HDSL Driver
.lib LTC.lib
.backanno
.end
