* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1210.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 15
V2 -V 0 -15
R1 N002 N001 845
R2 N001 0 274
V3 IN 0 SINE(0 2.5 1K)
X§U1 IN N001 +V -V N002 NC_01 LT1210
R3 OUT N002 11
Rload OUT 0 100
.tran 3m
* Twisted Pair Driver
.lib LTC.lib
.backanno
.end
