* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1215.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 5
V2 IN- IN+ SINE(-250m 10m 100)
X§U1 IN+ N003 +V 0 OUT LT1215
X§U2 IN- N002 +V 0 N001 LT1215
R1 OUT N003 1020
R2 N001 N002 113
R3 N001 N003 113
R4 N002 0 1020
V3 IN+ 0 SINE(1.5 .5 10)
.tran .3
.lib LTC.lib
.backanno
.end
