* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1219.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 5
V3 IN 0 SINE(2.5 2.5 1K)
X§U1 IN OUT +V 0 OUT NC_01 LT1219
C1 OUT 0 .1µ
.tran 3m
.lib LTC.lib
.backanno
.end
