* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1222.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 15
V2 -V 0 -15
R1 OUT N001 909
R2 N001 0 100
V3 IN 0 SINE(0 .2 1K)
X§U1 IN N001 +V -V OUT NC_01 LT1222
.tran 3m
.lib LTC.lib
.backanno
.end
