* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1223.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 15
V2 -V 0 -15
R1 OUT N001 1K
R2 N001 0 {Rg}
V3 IN 0 ac 1
X§U1 IN N001 +V -V OUT LT1223
.ac oct 100 100K  1G
.step PARAM Rg list 10 33 110 470 1e308
.lib LTC.lib
.backanno
.end
