* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1226.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 15
V2 -V 0 -15
R1 N002 N001 1.2K
R2 N001 0 50
V3 IN 0 ac 1
X§U1 IN N001 +V -V N002 LT1226
R3 N002 N003 75
R4 OUT 0 75
T1 N003 0 OUT 0 Td=50n Z0=75
.ac oct 10 100K 1G
.lib LTC.lib
.backanno
.end
