* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1230.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 5
R1 N003 N002 510
R2 N002 0 750
V3 N004 0 SINE(0 .7 1K)
R3 +V N002 1.5K
C1 P001 N003 1000µ
R4 P001 OUT 75
R5 OUT 0 10K
Q1 +V N001 N005 0 2N3904
R6 +V N001 3K
R7 N001 0 2K
R8 N005 0 150K
C2 N005 N004 1µ
C3 N001 0 1µ
X§U1 N005 N002 +V 0 N003 LT1229
.model NPN NPN
.model PNP PNP
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 300m
* Single Supply Cable Driver for Composite Video
.lib LTC.lib
.backanno
.end
