* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1243.asc
* Generated by LTspice 24.1.9 for Windows.
R1 N017 0 .67
C1 N018 0 220p
C2 N015 0 .1µ
C3 N014 N013 .01µ
R2 N013 N010 200K
R3 N015 N018 12K
R4 N010 0 20K
R5 N017 N016 1K
M§Q1 N005 N012 N017 N017 BSC42DN25NS3
R6 N012 N011 10
R7 N006 N010 125K
C4 N006 0 .0022µ
C5 N007 0 100p
D1 N007 N006 BAT54
C6 N004 0 22µ
R8 N009 N004 39
D2 N008 N009 BAT54
R9 IN N016 1.32Meg
R10 IN N003 660K
C7 IN N003 470p
L1 N001 0 20µ Rser=.05
L2 N008 0 16µ Rser=.1
L3 N005 IN 100µ Rser=.05
D3 N001 N002 MBRS340
L4 N002 OUT 1µ
C8 OUT 0 3.3µ
R11 OUT 0 750
V1 IN 0 200
D4 0 N004 BZX84C15L
D5 N005 N003 MURS320
R12 N008 N007 510
R13 IN N004 400K
X§U1 N014 N010 N016 N018 0 N011 N004 N015 LT1243
C9 N016 0 25p
I1 0 N004 pwl(0 0 50u 7 100u 0)
C10 N002 0 10µ Rser=.1
Rload OUT 0 25
.model D D
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 1m startup
K1 L1 L2 L3 1
.lib LT1243.sub
.backanno
.end
