* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1245.asc
* Generated by LTspice 24.1.9 for Windows.
R1 N017 0 .67
C1 N018 0 220p
C2 N015 0 .1µ
C3 N014 N013 .01µ
R2 N013 N010 100K
R3 N015 N018 12K
R4 N010 0 20K
R5 N017 N016 1K
M§Q1 N004 N012 N017 N017 IRF7303
R6 N012 N011 12
R7 N006 N010 152K
C4 N006 0 .0022µ
C5 N007 0 100p
D1 N007 N006 BAT54
C6 N005 0 22µ
R8 N009 N005 39
D2 N008 N009 BAT54
R9 IN N016 1.32Meg
R10 IN N003 660K
C7 IN N003 470p
L1 N001 0 16µ Rser=.05
L2 N008 0 18.8µ Rser=.1
L3 N004 IN 100µ Rser=.05
D3 N001 N002 MBRS340
C8 N002 0 10µ
L4 N002 +20V 1µ Rpar=100
C9 +20V 0 3.3µ
R11 +20V 0 750
V1 IN 0 200
D4 0 N005 BZX84C15L
D5 N004 N003 MURS320
R12 N008 N007 510
R13 IN N005 400K
X§U1 N014 N010 N016 N018 0 N011 N005 N015 LT1245
C10 N016 0 50p
Rload +20V 0 50
.model D D
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 1m
K1 L1 L2 L3 1
.lib LT1245.sub
.backanno
.end
