* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1259.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 5
V2 -V 0 -5
R1 OUT N001 1.6K
R2 N001 0 1.6K
V3 IN 0 SINE(0 1 1K)
X§U1 IN N001 +V -V OUT LT1259
.tran 3m
.lib LTC.lib
.backanno
.end
