* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1302.asc
* Generated by LTspice 24.1.9 for Windows.
C1 OUT 0 100µ Rser=0.02
D1 N001 OUT MBRS340
L1 IN N001 10µ Rser=0.02 Rpar=5000
R1 N005 N006 20K
R2 OUT N003 315K
R3 N003 0 105K
C3 N006 0 .01µ
V1 IN 0 2.5
X§U1 0 N005 N002 N003 N004 IN N001 0 LT1302 top=1K bot=1T
R4 OUT 0 10
.model D D
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 1.5m startup
.lib LT1302.sub
.backanno
.end
