* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1303.asc
* Generated by LTspice 24.1.9 for Windows.
V1 IN 0 3.2
R1 OUT N003 474K
R2 N003 0 156K
L1 IN N001 22µ Rser=0.02 Rpar=5000
D1 N001 OUT MBRS140
C2 OUT 0 100µ Rser=0.02
X§U1 0 N004 0 N003 N002 IN N001 0 LT1303 top=1K bot=1T
Rload OUT 0 25
.model D D
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 1m startup
.lib LT1303.sub
.backanno
.end
