* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1305.asc
* Generated by LTspice 24.1.9 for Windows.
C1 OUT 0 220µ Rser=0.02
D1 N001 OUT MBRS340
L1 IN N001 10µ Rser=0.02 Rpar=5000
R1 N004 0 100K
R2 OUT N004 309K
V1 IN 0 3
X§U1 0 N002 N005 N004 N003 IN N001 0 LT1305
Rload OUT 0 15
.model D D
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 2m startup
.lib LT1305.sub
.backanno
.end
