* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1309.asc
* Generated by LTspice 24.1.9 for Windows.
C1 N004 0 0.1µ
C2 OUT 0 1µ
D1 N001 OUT MBRS130L
L1 IN N001 10µ Rser=0.02 Rpar=5000
R1 N004 0 1Meg
V1 IN 0 5
Rload OUT 0 100
X§U1 N004 IN 0 N001 0 N003 OUT N002 LT1309
.model D D
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 1m startup
.lib LT1309.sub
.backanno
.end
