* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1317.asc
* Generated by LTspice 24.1.9 for Windows.
C2 OUT 0 33µ Rser=0.02
D1 N001 OUT MBRS140
L1 IN N001 10µ Rser=0.02 Rpar=5000
R2 N005 0 324K
R1 OUT N005 1Meg
R3 N004 N003 33K
V1 IN 0 1.5
C3 N003 0 3300p
X§U1 N004 N005 N002 0 N001 IN N006 N007 LT1317
Rload OUT 0 50
.model D D
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 3m startup
.lib LT1317.sub
.backanno
.end
