* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1328.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 5
X§U1 N001 N003 N004 0 N005 +V 0 N002 LT1328
C1 N003 N004 10n Rser=.1
C2 N003 0 330p
C3 0 N002 1000p
I1 N001 0 PULSE(7u 100u 0 10n 10n .5u 1u)
.tran 10u
.lib LT1328.lib
.backanno
.end
