* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1366.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 5
V2 -V 0 -5
R1 OUT N001 10K
X§U1 IN N001 +V -V OUT LT1366
X§U2 N001 N003 +V -V N002 LT1366
R2 N003 N002 1Meg
C1 N003 N002 22p
R3 IN N002 1Meg
V3 IN 0 SINE(0 1 100)
.tran 30m
* Input Bias Current Cancellation
.lib LTC.lib
.backanno
.end
