* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1368.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 5
R1 N001 +V 200
M§Q1 N004 N002 N001 N001 BSS84
I1 N003 0 SINE(.2 .1 1K)
R2 +V N003 .1
R3 N004 0 20K
C1 OUT 0 .1µ
X§U1 N003 N001 +V 0 N002 LT1368
X§U2 N004 OUT +V 0 OUT LT1368
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 3m
* Positive Supply Rail Current Sense
.lib LTC.lib
.backanno
.end
