* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1370.asc
* Generated by LTspice 24.1.9 for Windows.
L1 IN N001 6.8µ Rser=0.072
D1 N001 OUT MBR745
R1 N001 N002 10
R2 OUT N004 53.6K
R3 N004 0 6.19K
R4 N006 N007 470
C1 N002 OUT 1000p Rser=0.04
C2 OUT 0 180µ Rser=0.05
C3 0 N007 .1µ
V1 IN 0 5
X§U1 N006 N004 N003 0 N001 N005 IN LT1370
Rload OUT 0 10
.model D D
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 5m startup
.lib LT1370.sub
.backanno
.end
