* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1373.asc
* Generated by LTspice 24.1.9 for Windows.
V1 IN 0 5
C1 N005 N006 .05µ
C2 OUT 0 22µ Rser=.05
R1 N006 0 5K
R2 N002 0 24.9K
R3 OUT N002 215K
D1 N001 OUT MBRS360
L1 IN N001 22µ Rser=0.02 Rpar=5000
X§U1 N005 N002 N004 N003 IN 0 0 N001 LT1373
Rload OUT 0 100
.model D D
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 2m startup
.lib LT1373.sub
.backanno
.end
