* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1394.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 5
V3 N002 0 pulse(0 2 0 .5m .5m 0 1m)
V2 N004 0 1
X§U1 +V N002 N004 0 0 0 N003 N001 LT1394
.tran 3m
.lib LTC.lib
.backanno
.end
