* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1398.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 5
V2 -V 0 -5
R1 OUT N001 324
R2 N001 0 200
V3 IN 0 SINE(0 1 10K)
X§U1 IN N001 +V -V OUT _SHDN LT1398
V4 _SHDN 0 PULSE(0 5 0 1u 1u .5m 1m)
.tran 3m
.lib LTC.lib
.backanno
.end
