* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1425.asc
* Generated by LTspice 24.1.9 for Windows.
L1 IN N003 20µ
L2 0 N001 20µ Rser=.1
V1 IN 0 5
R1 N003 N005 22.6K
R2 N007 0 3.01K
D1 N001 OUT 1N5818
C1 OUT 0 10µ Rser=.1
C2 N004 0 1000p
C3 N008 0 .1µ
R3 N006 0 15K
Rload OUT 0 50
X§U1 NC_01 MP_02 N005 N004 N007 MP_03 NC_04 MP_05 MP_06 NC_07 N003 IN N008 N006 N002 LT1425
.model D D
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.dio
K1 L1 L2 1
.tran 2m startup
.lib LT1425.sub
.backanno
.end
