* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1431.asc
* Generated by LTspice 24.1.9 for Windows.
V1 N001 0 10
X§U1 N004 N007 N001 N002 0 0 N006 N006 LT1431
R3 N004 N005 2K
C1 N007 N005 1n
X§U2 N003 N004 N002 0 NC_01 4N25
R4 N001 N003 1K
R6 N001 N002 1K
.tran 3m startup
.lib 4N25.sub
.lib LT1431.sub
.backanno
.end
